Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't want to be here."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ yo ___ female student with no PMH, PPHx 
significant for depression, and no past psychiatric 
hospitalizations or suicide attempts, who presented to the ___ 
ED via EMS after residential advisor called ___ police, 
presenting with SI with plan. 
.
On interview, patient reports that she has been feeling 
depressed since ___, however she felt especially low over 
the past 2 days. Patient reports multiple stressors including 
upcoming finals, packing and planning for upcoming study abroad 
(___), leaving her friends for her study abroad, and 
conflicts with her boyfriend. Patient reports that tonight, she 
was feeling extremely anxious about these numerous stressors in 
her life and wanted to reach out to the on-call ___ mental health 
provider. However, she had left her ID with the number in her 
dorm room, requiring her to due to call the resident-on-call to 
open her dorm room for her. At that time, the resident and ___ PD 
saw that patient was distressed and suggested that patient come 
to ED for further evaluation.
. 
Patient explains to interviewer that she was having anxiety 
attack at the time, and began having thoughts of suicide. She 
explains that she has been feeling suffocated because she always 
has to "go and go." She reports that she has had SI with plan to 
step out into a street and have a car hit her or to overdose on 
medications, specifically Fluoxetine, during these periods of 
extreme anxiety. She states these suicidal thoughts with plan 
occur every day.  Today, she states that she had left to see a 
friend, and felt a strong desire to run, and decided to run 
across the street without looking in either directions, with 
thoughts of "whatever happen will happen." A similar instance of 
running into the street without looking had also occurred in 
___, but patient feels that tonight was worse. She 
explains that "I get scared of myself because I can do 
anything."  She also states that in these periods of distress, 
she will look at her bottle of Fluoxetine with thoughts of 
overdosing, but has never picked up the pill bottle or rehearsed 
an overdose. She states she is able to stop herself from taking 
the pills due to having plans later that day, thoughts of her 
family and friends, and thoughts of the future. Patient's last 
suicidal thoughts occurred while in the ambulance to ___ ED. 
Denies current SI, but states the thoughts have recently 
occurred more frequently (up to ___ times per day). Patient also 
reports engaging in SIB through scratching and superficial 
cutting today. She was scratching her L arm which resulted in a 
superficial abrasion, and attempted to cut but did not puncture 
the skin. Patient states she engages in SIB through scratching 
and cutting in setting of her severe anxiety, approximately once 
per month but denies h/o requiring sutures or medical attention.
.
Patient states that despite having multiple supports, she has a 
difficult time opening up to her friends and family about her 
depression because it's "embarrassing." This has led her to feel 
lonely and often overwhelmed. She endorses depressed mood, 
anhedonia, decreased appetite, insomnia (difficulty falling and 
staying asleep),  fatigue/loss of energy, worthlessness/guilt, 
diminished concentration, hopelessness, recurrent thoughts of 
death, and rumination about her multiple stressors. Her 
depressive symptoms have led her to miss several classes and 
have resulted in her grades dropping from high B+'s to B-'s and 
C's. She also reports drinking more alcohol than normal in an 
effort to cope with her symptoms. She reports drinking 2 
alcoholic beverages (often liquor) approximately ___ times per 
week. She will also drink more heavily on the weekends, and will 
black out approximately every 2 weeks.
.
COLLATERAL
Spoke with the ___ physician on call. This physician did not 
directly speak with the patient, but spoke with the ___ police 
who had seen patient: Per ___ police, patient was in her dorm and 
was sobbing to her RA. She was unable to calm down in 45 minutes 
of being there and reported history of depression. She was 
pushing to speak to someone from the on-call mental health 
network. She was unable to calm down and brought to the ___ ED 
because they felt that "something was off" and wanted patient to 
have further evaluation. 
.
Resident Advisor (___): P: ___ ___ is 
the RA-on call and had received a call for a student who wanted 
to speak with her. On her way to see this student, she received 
a call from ___. She was crying and sounded very upset, 
saying she needed her to be there as soon as possible so he 
could retrieve her ID from the dorm. Upon arrival, patient was 
crying and did not want to disclose what was happening. RA had 
difficult time calming the patient down and she stated she 
wanted her ID to call mental health services due to feeling 
depressed. RA was concerned for her safety at the time and she 
overheard her talking to the officer about how depressed she had 
been, being off medications, and having a fight with her 
officer. However, patient never directly reported SI to RA. 
.
When patient arrived to inpatient unit, patient easily becomes 
dysregulated, quickly yelling and swearing at nurse ___ MD.  ___ 
reports feeling easily overwhelmed, and that she does not feel 
she has space in ___ to decompress.  States that she often 
just wants to "run away," without necessarily running anywhere.  
She denies intent or plan, and states that prior notes re 
mis-representing her story.  Does admit to illicit Adderall use 
on late ___ night/early ___ morning to help her study.  
.
Does admit to being in physical altercations with her boyfriend, 
and states he filed a restraining order on her ___ years ago. 
Denies recent interpersonal violence for the past ___ years. 
.
States that she had been on Prozac in the past, last taken ___ 
years ago.  More recently, had taken it for a week (1 month ago 
around finals) and then self-discontinued.  
.
Spoke with mom, who presented to the unit.  Mom says depressive 
symptoms began approximately ___ years ago.  The patient does not 
deal well with frustration or stressful situations, and this 
often will exacerbate her depressed mood. She has a history of 
aggression that began ___ years ago, and has become physically 
violent with members of her family, especially mom.  At one 
point she became so aggressive with her mother that she required 
surgery.  After this aggressive period, she saw a psychiatrist 
and was started on Fluoxetine, which seemed to improve her 
anxiety and aggression.  ___ years later, she discussed with 
her psychiatrist that she wanted to come off of it, and the 
psychiatrist agreed to a slow downtitration; however, the 
patient completely stopped it on her own.  Since then, her mom 
says her mood has been a "rollercoaster," that she is highly 
unpredictable and prone to significant mood swings.  
.
Recently, in early ___, she called her mother and father 
feeling frustrated and stressed out, and asked her father (who 
is a physician) to prescribe her a stimulant to help her study.  
Dad would not do this.  Later, when she was home in ___ 
for ___ break, the family urged her to see a 
psychiatrist, but the patient refused.  
.
Spoke with dad, Dr. ___ (___) Dad wanted an 
update, but I explained that I was unable to provide that to him 
since she had not given us verbal or written consent to speak 
with anyone.  Dad reported long-standing history of anxiety, 
aggression and depression, and corroborates history of violence 
both toward her mother and brother.  Reports that she has been 
taking Adderall from a roommate to help her study.
.
=================
REVIEW OF SYSTEMS
=================
PSYCHIATRIC: 
Positive per HPI. Denies the following: psychomotor 
agitation/retardation, delusions, thought 
broadcasting/insertion, hallucinations, elevated/irritable mood, 
increased activity/energy, decreased need for sleep, 
grandiosity, increased speech, racing thoughts, distractibility, 
increase in goal-directed activity/psychomotor agitation, 
social/economic indiscretion, panic attacks, phobias, 
rumination, obsessions, compulsions, nightmares, flashbacks, 
hypervigilence, avoidance.
.
MEDICAL
Positive for: mild HA
Otherwise, a 10-point ROS was negative, including: fever, 
hearing deficit, chest pain, difficulty breathing, abdominal 
pain, dysuria, constipation, diarrhea, musculoskeletal pain
 
Past Medical History:
========================
PAST PSYCHIATRIC HISTORY
========================
- Past diagnoses: Depression
- Hospitalizations: Denies
- Psychiatrist: Denies current, used to have a psychiatrist ___ 
years ago (from ___ 
- Therapist: Denies current therapist 
- Medication and ECT trials: Fluoxetine (patient stopped taking 
1 month ago), cannot recall name of medication prior to this
- Self-injury/Suicide attempts: SIB through scratching and 
cutting (most recently today), see HPI, denies history of SA
- Harm to others: Denies
- Trauma: Freshman year boyfriend placed restraint against her, 
which caused stress. Now every time. 
====================
PAST MEDICAL HISTORY
====================                    
- PCP: ___
- ___ trauma: Reports undergoing concussion this past ___ 
when she fell down the stairs, and continues to have occasional 
headaches.     
- Seizures: Denies
- PMHx: Denies
===========
MEDICATIONS
===========
Fluoxetine (patient stopped taking it 1 month ago because she 
felt that her mood had improved). 
=========
ALLERGIES
=========
NKDA
 
Social History:
=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: patient reports drinking 2 drinks of liquor 
approximately ___ times per week, but will have more drinks on 
weekends, reports blacking out every 2 weeks, h/o of withdrawal, 
detox
admissions, h/o seizures
- Tobacco: Denies
- Cannabis: Denies
- Illicits: Denies
================
FORENSIC HISTORY
================
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): Denies
==============
SOCIAL HISTORY
==============
- B/R: Born and raised in ___, moved to ___ at age ___, 
then moved to ___ for college
- Family: Mother, Father, and Brother (all live in ___, 
family supportive
- Relationship status: in a relationship with boyfriend
- Primary supports: family and friends, but patient reports 
feeling lonely
- Housing: ___ with a roommate (single room in a 2 
persons suite) 
- Education: ___ in college, studying ___, wants to 
pursue career in ___ 
- Employment/income: Parental support
- Spiritual: Catholic - sometimes prays and goes to church
- Access to weapons: Denies
 
Family History:
==========================
FAMILY PSYCHIATRIC HISTORY
==========================
- ___ Dx: Mother with depression, patient thinks her father has 
depression
- ___ Hospitalizations: Denies
- ___ Treatment Hx/Med Trials: Denies
- ___ Hx Suicide: Denies
 
Physical Exam:
Neurological:
 Cranial Nerves:
  - Unable to perform given dysregulation.  

- Motor: Normal bulk and tone bilaterally. No abnormal  
movements, no tremor. 
- Strength: Moves upper and lower extremities antigravity and 
with full ROM. 
- DTRs: Not assessed. 
- Sensation: Unable to perform given dysregulation.   
- Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
- Wakefulness/alertness: awake and alert
- Attention: Distracted, unable to maintain attention to 
complete full psychiatric interview/exam
- Orientation: oriented to person, time, place, situation
- Memory: intact to recent and past history
- Fund of knowledge: Unable to perform given dysregulation.  
- Calculations: Unable to perform given dysregulation.  
- Abstraction: Unable to perform given dysregulation.  
- Visuospatial: Unable to perform given dysregulation.  
- Speech: Rapid rate, loud
- Language: native ___ speaker, no paraphasic errors

Mental Status:
- Appearance: Appears stated age, hygiene appropriate
- Behavior: Uncooperative, hostile toward this interviewer and 
RN; yells, uses frequent profanity
- Mood and Affect: "frustrated"; affect labile, hostile
- Thought Process: Circumstantial, periods of linearity
- Thought Content: Denies SI
- Judgment and Insight: poor/poor

 
Pertinent Results:
LABS, IMAGING, AND OTHER STUDIES:
___ 06:22AM BLOOD WBC: 7.1 RBC: 4.23 Hgb: 12.7 Hct: 37.9
MCV: 90 MCH: 30.0 MCHC: 33.5 RDW: 12.3 RDWSD: 40.___ 
___ 06:22AM BLOOD Neuts: 43.4 Lymphs: ___ Monos: 7.9 Eos:
0.6* Baso: 0.8 Im ___: 0.3 AbsNeut: 3.06 AbsLymp: 3.32 AbsMono:
0.56 AbsEos: 0.04 AbsBaso: 0.06 
___ 06:22AM BLOOD Glucose: 93 UreaN: 13 Creat: 0.9 Na: 142
K: 4.0 Cl: 109* HCO3: 21* AnGap: 12 
___ 06:22AM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient declined to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___. She was also placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.
.
2. PSYCHIATRIC
Upon arrival to the unit, patient was unable to engage in a 
meaningful conversation with nursing or MD due to emotional 
dysregulation (e.g. yelling/swearing at staff due to frustration 
with admission). She later reported that she had a longstanding 
history of depression and was previously on fluoxetine (which 
she recalled was helpful). She attributed her mood lability and 
behavioral dysregulation prior to admission and upon arrival to 
inpatient unit. Patient adamantly denied ongoing suicidal 
ideation and claimed that statements made in the emergency room 
were "lies." She clarified that her report of wanting to run 
into traffic was a misrepresentation of her desire to "run 
away," which she experiences intermittently during periods of 
stress. She also denied engaging in self-harm by cutting. 
.
Diagnostically, patient's presentation would be atypical for 
unipolar depression given level of aggression/irritability.  No 
family history of bipolar disorder, but certainly a 
consideration given observed irritability/aggression and mom's 
report of mood swings. Alternatively, poor distress tolerance, 
coupled with mood swings could suggest character pathology such 
as cluster B traits.
. 
Given patient's improvement in depressive symptoms with 
fluoxetine in the past, this medication was recommended. 
However, patient consistently asserted her preference not to 
take medications. 
.
On day prior to discharge, patient was capable of engaging 
appropriately with treatment team to discuss discharge planning 
and future care. Patient expressed her willingness to follow up 
with outpatient psychiatrist and therapist in ___. 
Throughout her admission, patient consistent denied suicidal 
ideation and did not engage in any unsafe behavior. On day of 
discharge, patient exhibited mood congruent euthymic affect, 
linear thought process, and future oriented thought content.
.
3. SUBSTANCE USE DISORDERS:
#) Alcohol use disorder and stimulant misuse - discussed with 
patient the risks of engaging in unsafe and impulsive behavior 
while intoxicated. Also discussed the negative effects of 
surreptitious stimulant use. Patient indicated that she would 
remain sober following discharge. 
.
4. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Patient 
declined to attend these groups.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient provided permission for treatment team to speak with her 
parents. Patient's mother (___) attended family meeting on 
the unit (facilitated by ___ interpreter) on ___. Also 
spoke with patient's father (Dr. ___ ___. 
Parents provided collateral in earlier portion of this document; 
however, over the course of admission, parents advocated for 
patient's discharge to dorm. Mother affirmed that she would stay 
in ___ with patient until she finishes the semester, at which 
time patient will travel with mother to ___. Parents did 
not have ongoing safety concerns at time of discharge.
.
Treatment team confirmed that Dr. ___ (psychiatrist 
at ___ would be willing to see patient on 
___ at 10:30AM. Dr. ___ stated that he would be 
available in the interim by phone or email for more urgent 
needs.
.
Patient also provided permission for treatment team to speak 
with ___ ___) to coordinate 
re-entry. 
.
#) RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
emotional dysregulation and expressed suicidal ideation to ___ 
staff and clinicians in ED. Her static factors noted at that 
time include history of substance abuse. The modifiable risk 
factors were also addressed at that time; specifically, lack of 
outpatient providers (patient was reconnected with previous 
psychiatrist and therapist), suicidal ideation (patient denied 
throughout admission and upon discharge), agitation with poor 
distress tolerance (as admission progressed, patient was no 
longer dysregulated and demonstrated the ability to engage 
appropriately with treatment team). Finally, the patient is 
being discharged with many protective risk factors, including 
her positive therapeutic relationship with outpatient providers, 
commitment to academic and future goals, sense of responsibility 
to family, and lack of previous suicide attempts. Furthermore, 
patient indicated her willingness to contact Dr. ___ 
___ discharge in the interim prior to her appointment with 
him if she experiences suicidal ideation or thoughts/urges to 
engage in self-harm. Overall, at time of discharge, Based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Blisovi ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 mcg 
(24)/75 mg (4) oral daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Depressive Disorder
Alcohol Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___